US09102673B2
Step 1: Methyl 1-(2-bromoethyl)-4-(3-ethoxyphenyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate
To a solution of methyl 4-(3-ethoxyphenyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (230 mg, 0.776 mmole) in DMF (7 mL) was added NaH (60% dispersion in mineral oil, 40 mg, 1.000 mmole) at RT. After gas evolution had ceased 1,2-dibromoethane (1 mL, 11.60 mmole) was added rapidly. After stirring overnight the mixture was diluted with H2O and extracted with EtOAc (3×). The combined organic layers were washed with H2O and brine then dried (MgSO4), filtered, and concentrated. Flash column (Biotage-SNAP-25 g SiO2, 0-50% EtOAc/hexanes) gave the title compound (135 mg, 43%) as a clear gum. 1H NMR (400 MHz, CDCl3): δ8.51 (d, J=6.0 Hz, 1 H); 7.60 (d, J=1.0 Hz, 1 H); 7.49-7.45 (m, 2 H); 7.40 (m, J=7.9 Hz, 1 H); 7.31 (dd, J=6.0, 1.0 Hz, 1 H); 6.99 (ddd, J=8.2, 2.6, 1.1 Hz, 1 H); 4.92 (t, J=6.83 Hz, 2 H); 4.12 (q, J=7.0 Hz, 2 H); 3.91 (s, 3 H); 3.71 (t, J=7.12 Hz, 2 H); 1.43 (t, J=7.12 Hz, 2 H).

reactant | methyl 4-(3-ethoxyphenyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 0.776 mmole, 230 mg | C(C)OC=1C=C(C=CC1)C1=NC=CC2=C1C=C(N2)C(=O)OC | C17H16N2O3
reactant | NaH | 1.000 mmole, 40 mg | [H-].[Na+]
reactant | 1,2-dibromoethane | 11.60 mmole, 1 mL | BrCCBr | C2H4Br2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | Methyl 1-(2-bromoethyl)-4-(3-ethoxyphenyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 135 mg, 43% | BrCCN1C(=CC=2C(=NC=CC21)C2=CC(=CC=C2)OCC)C(=O)OC | C19H19BrN2O3
